US05202330
a) 1-Benzoyl-1,6-dihydro-2-[[(4-methoxyphenyl) methyl]thio]-4-methyl-6-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester
A cold solution (5°) of 2.0 g. (0.0045 mole) of 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester in 25 ml. of dichloromethane containing 0.72 g. (0.0091 mole) of pyridine is treated slowly with a solution of 0.76 g. (0.0054 mole) of benzoyl chloride in 3 ml. of dichloromethane. After stirring at room temperature for 16 hours, the solution is diluted with dichloromethane and washed with water, 1N hydrochloric acid, sodium bicarbonate and brine. The dried solution is evaporated to give 2.37 g. of a viscous oil which is not purified.

reactant | 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | 0.0045 mole | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C22H23N3O5S
reactant | pyridine | 0.0091 mole | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.0054 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 0.72 g | ClCCl | CH2Cl2
product | 1-Benzoyl-1,6-dihydro-2-[[(4-methoxyphenyl) methyl]thio]-4-methyl-6-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | C(C1=CC=CC=C1)(=O)N1C(=NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)SCC1=CC=C(C=C1)OC | C29H27N3O6S
